US09216999B2
4-Chloro-5-(methylsulfonyl)-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine
s-Butyllithium-hexane/cyclohexane solution (1.06 M, 0.700 mL, 0.742 mmol) was gradually added dropwise to 4-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.324 mmol) obtained in Reference Synthetic Exampleb 6 in tetrahydrofuran (1 mL) cooled to −78° C., and the reaction mixture was stirred at −78° C. for 30 minutes and stirred with dimethyl disulfide (30 μL, 0.33 mmol) at −78° C. for 30 minutes. After addition of 1 M aqueous sodium hydroxide, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in ethanol (2 mL) and stirred with ammonium molybdate tetrahydrate (40 mg, 0.032 mmol) and aqueous hydrogen peroxide (30 wt %, 132 μL, 1.29 mmol) at room temperature for 5 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1→5/1 (v/v)) to give the title compound as a pale yellow oil (61.4 mg, yield 49%).

reactant | s-Butyllithium hexane cyclohexane | 0.742 mmol, 1.06 M, 0.700 mL | C(C)(CC)[Li].CCCCCC.C1CCCCC1
reactant | 4-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 0.324 mmol, 100 mg | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
reactant | dimethyl disulfide | 0.33 mmol, 30 μL | CSSC | C2H6S2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | hydrogen peroxide | 1.29 mmol, 132 μL | OO | H2O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | ammonium molybdate tetrahydrate | 0.032 mmol, 40 mg | [NH4+].[NH4+].O.O.O.O.[O-][Mo](=O)(=O)[O-]
solvent | water | O | H2O
product | 4-Chloro-5-(methylsulfonyl)-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 61.4 mg, yield 49% | ClC1=C2C(=NC=C1S(=O)(=O)C)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C17H27ClN2O2SSi
